US07491735B2
To a solution of 4-[hydroxy-(4-trifluoromethylphenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (1.07 g, 2.98 mmol) in CH2Cl2 (15 mL) were added PCC (1.93 g, 8.94 mmol) and SiO2 (3.86 g) and the mixture was stirred at room temperature for 75 minutes. The mixture was filtered through a silica gel plug (1:4, EtOAc/Hexanes) to afford 4-(4-trifluoromethyl-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester (800 mg, 75%) as a white solid. 1H NMR (CDCl3) δ 1.47 (s, 9H), 1.68-1.75 (m, 2H), 1.85 (d, 2H, J=12.0 Hz), 2.91 (t, 2H, J=11.4 Hz), 3.36-3.43 (m, 1H), 4.13-4.19 (m, 2H), 7.75 (d, 2H, J=8.1 Hz), 8.03 (d, 2H, J=8.1 Hz).

reactant | 4-[hydroxy-(4-trifluoromethylphenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.98 mmol, 1.07 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)C(F)(F)F)O | C18H24F3NO3
reactant | PCC | 8.94 mmol, 1.93 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-trifluoromethyl-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester | 800 mg, 75% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)C(F)(F)F)=O | C18H22F3NO3
